US07592477B2
Step a) Formation of N-(1-benzothien-3-ylmethyl)-N-[4-(3-octyl-1,2,4-oxadiazol-5-yl)-benzyl]amine
The same procedure as employed in the preparation of Example 357 (step a) but using 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde and 1-benzothien-3-ylmethylamine gave the title compound as an oil. M+(LC/MS(ESI)): 434.3. HPLC (Condition A), Rt: 4.30 min (HPLC purity: 89.9%).

reactant | 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C17H22N2O2
reactant | 1-benzothien-3-ylmethylamine | S1C=C(C2=C1C=CC=C2)CN | C9H9NS
product | N-(1-benzothien-3-ylmethyl)-N-[4-(3-octyl-1,2,4-oxadiazol-5-yl)-benzyl]amine | S1C=C(C2=C1C=CC=C2)CNCC2=CC=C(C=C2)C2=NC(=NO2)CCCCCCCC | C26H31N3OS
